data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5024,"CCC1CC(=NO)C2=CC=CC=C21.CC[NH+](CC)CC.O=[S:1](=O)([CH2-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9808,"CC(C)[N-:1]C(C)C.CCC1CCC[C:2](C)([H:3])[CH:4]1[Cl:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4339,"CC(C)(O)CNC1=C([NH2:1])C(Cl)=NC2=C1C=CC=C2.CCN(CC)CC.CCOC[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1381,"CC(C)[N](C(C)C)[Li:1].CC1CC(C)(C)C=CC1=[O:2]|(2, 1)"
train,pmechdb_split_0,0,8523,"O=[S+](=O)[O:1][H:2].[Br][Mg:3][C:4]1=CC=CC=C1|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,709,"C1=CC=C([CH2:1][Br:2])C=C1.C1CC2=[N:3]CCCN2C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1030,"C[P+](C)(C)[CH-:1][CH2:2][OH+:3][Na]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9927,"CCO[C:1]1=[CH:2]C=CC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5671,"C[B-](C)(C)[O+:1]=[CH2:2].C[Si](C)(C)C=[C:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1841,"CC#CC(C)(C#CC)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,980,"CCCCCCN1CCC23C4=C(C=CC(OC)=C4[OH:1])CC1C2CC=C(O)[CH+:2]3.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,2981,"C1=CC=C(C[CH:1]=[CH:2][O-:3])C=C1.[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1463,"C[CH+]C[Si:1](C)(C)C.C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,5893,"CCCCCC1=CC=C[N+:1]([CH:2]2CC(O)C(COC3CCCCC3)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,55,"CC(=O)O.CC(C)C1CC2CC3CC2C1CC3(C)[N+:1]#[CH:2].O=S(=O)([O-])O.[Na+].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5843,"CC(C)[C:1]1([H:2])OC=C(C(F)(F)F)[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,431,"C[C:1]1(Br)C(Br)[Br+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2651,"C1=CC=C([CH2:1][Br:2])C=C1.N#C[CH-:3]C#N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,523,"CC(C)NC(C)C.[I-].[Li][O]C(C1=CC=CC=C1)C(C)N(C)C(C(C)CC(C)C(COCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)=[O+:1][Li-:2][NH+](C(C)C)C(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,4255,"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCCOC(=O)C[N:1]=[N+:2]=[N-:3].[OH3+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2503,"C=C=C(C(CCC1CCCC[C:1]1=[O+:2][Na])[O-:3])[Si](C)(C)C.OB1C2CCCC1CCC2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,126,"CCO[C:1](C)=[O:2].CC[NH:3]CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8877,"C[C:1](C(C#N)C#N)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4604,"CC[OH+:1][CH:2](CNC(COCC1=CC=CC=C1)C1=C2OCOC2=C(C)C(OC)=C1)[O:3]CC.O.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2983,"CC(C)(OCCO)[O:1]C.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,441,"CC(C(C)(C)C)=[O+:1][H:2].O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6284,"O=S(=O)(O)[O:1][H:2].OC[CH:3]=[C:4]=[NH:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6972,"CO[C:1](O)=[NH+:2]C.C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2501,"CO[C:1](C)([OH:2])[SH+:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7447,"C[Si](C)(C)C[CH:1]=[CH2:2].C[Si](C)(C)[O+:3](C)[Br:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3502,"CO.C[C:1](CCC(=O)CCC1=CC=CC=C1)([NH2:2])[OH:3].N|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3246,"CCC[NH+:1]1C(=O)C2=C(C=CC=C2)[C:2]1(O)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6282,"C[NH+:1]1CCCO[C:2]1(Cl)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7060,"N[C:1]1([Cl:2])C=C[N-:3][CH:4]=[CH:5]1|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4642,"C[N+:1](=COP(=O)(Cl)Cl)[H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1131,"ClCCC[OH+][S:1](Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3157,"CCO[C:1](CC(C)=O)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2595,"C1CC[C:1](=[O:2])C1.C1CC[NH:3]C1.CC1=CC=C(S(=O)(=O)O)C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4807,"CO.COC1=C2OC3C(=[O:1])CCC4C5CC(=C2C34CC[NH+]5CC2CC2)C=C1.COC=[O+]C.O=C(O)C1=C(O)C=CC(S(=O)(=O)[O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1802,"C[O:1][CH:2]=[NH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1248,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=C(S(=O)(=O)O)O[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,5326,"CC(C)C1CC(O)C2=CC(=O)C(C)(CC[C:1]([CH:2](CO)[H:3])=[O:4])CCC21C.C[O:5][Na]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,2955,"CO[PH](Cl)(Cl)[O+:1](C)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5600,"CCOC(=O)[N+:1](CC1=CC=CC=C1)=[CH:2]C1=CC=CC=C1.CC[O][Sn-]([Cl])([Cl])([Cl])[Cl].C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9110,"C[CH2:1][Li:2].C[CH:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,108,"CO.COC1=C(OC)C=C(C2=C(C)C(C)C(C3=CC(OC)=C(OC)C=C3)([OH:1])O2)C=C1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8238,"C[C:1](=[NH:2])[O-:3].C[CH2:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
